US07265148B2
Synthesis of N-{[3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalanine
The title compound was prepared from ethyl N-{[3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalaninate followed the procedure of Example 1 Step 4 as an off-white solid: 1H NMR (DMSO-d6) δ 2.90 (dd, J=14.0, 6.1 Hz, 1 H), 3.09 (dd, J=14.0, 9.0 Hz, 1 H), 4.65 (dd, J=9.0, 6.1 Hz, 1 H), 6.20 (t, J=2.0 Hz, 1 H), 6.95-7.05 (m, 1 H), 7.15-7.60 (m, 16 H), 11.87 (s, 1 H), 12.91 (br s, 1 H); MS (ESI) m/z 450 (MH+); MS (ESI) m/z 448 ([M-H]−); HRMS calcd for C28H24N3O3: 450.1818; found (ESI+): 450.1809; Anal. calcd for C28H23N3O3.0.5 H2O: C, 73.35; H, 5.28; N, 9.16. Found: C, 73.27; H, 4.94; N, 9.37.

reactant | ethyl N-{[3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalaninate | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)N1C=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC | C30H27N3O3
solvent | H2O | O | H2O
product | N-{[3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalanine | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)N1C=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C28H23N3O3
